US09290514B2
Step 2. Methyl 3-(benzyloxy)-4-bromo-2-nitrobenzoate
A solution of methyl 4-bromo-3-hydroxy-2-nitrobenzoate (5.41 g, 19.6 mmol) and potassium carbonate (5.42 g, 39.2 mmol) in N,N-dimethylformamide (30 mL, 387 mmol) was treated with benzyl bromide (3.26 mL, 27.4 mmol) and stirred at 60° C. for 1 h. The reaction mixture was diluted with water (250 mL) and extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated to give a crude tan oil. Purification by flash column chromatography (100% hexanes to 50% EtOAc/hexanes) gave the desired product (6.99 g, 97%) as a yellow solid. LCMS calculated for C15H16BrN2O5 (M+NH4)+: m/z=383.0, 385.0. found: 383.0, 385.0.

reactant | methyl 4-bromo-3-hydroxy-2-nitrobenzoate | 19.6 mmol, 5.41 g | BrC1=C(C(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C8H6BrNO5
reactant | potassium carbonate | 39.2 mmol, 5.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 387 mmol, 30 mL | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 27.4 mmol, 3.26 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 250 mL | O | H2O
product | Methyl 3-(benzyloxy)-4-bromo-2-nitrobenzoate | 6.99 g, 97% | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OC)C=CC1Br)[N+](=O)[O-] | C15H12BrNO5
